US05214197
To a solution of 1-methyl malate (920 mg, 6.21 mmol) in THF (40.0 ml), carbonyldiimidazole (1.11 g, 6.8 mmol) was added at 0° C in an argon atmosphere and stirred for 15 minutes, followed by further stirring at room temperature for 4 hours. To the resulting solution, magnesium bis(mono-tert.-butyl malonate) (3.05 g, 8.9 mmol) was added at room temperature and stirred for 40 hours. After evaporating THF off under reduced pressure, a 25 % aqueous solution of citric acid was added, and the mixture was extracted with ethyl acetate. The organic layer was washed with a saturated aqueous solution of sodium hydrogencarbonate, dried over sodium sulfate and concentrated under reduced pressure. The residue was subjected to silica gel column chromatography (hexane:acetone=2:1) to give pure 1-methyl 6-tert.-butyl 2-hydroxy-4-oxoadipate (26.8 mg, 1.1 mmol). Yield, 18 %.

reactant | 1-methyl malate | 6.21 mmol, 920 mg | C(C(O)CC(=O)[O-])(=O)OC
reactant | carbonyldiimidazole | 6.8 mmol, 1.11 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | magnesium bis(mono-tert.-butyl malonate) | 8.9 mmol, 3.05 g | C(C)(C)(C)C(C(=O)[O-])C(=O)[O-].C(C)(C)(C)C(C(=O)[O-])C(=O)[O-].[Mg+2].[Mg+2]
solvent | THF | 40.0 ml | C1CCOC1 | C4H8O
product | 1-methyl 6-tert.-butyl 2-hydroxy-4-oxoadipate | 1.1 mmol, 26.8 mg | OC(C(=O)OC)CC(CC(=O)OC(C)(C)C)=O | C11H18O6
